US05428038
7-hydroxy-6-(1-methylethoxy)-2H-1-benzopyran-2-one.
50.0 g (186 mmol) 6-hydroxy-7-phenylmethoxy-2H-1-benzopyran-2-one, 36.3 ml (387 mmol) isopropylbromide, 51.5 g (373 mmol) potassium carbonate and 5.0 g potassium iodide are agitated in 500 ml DMF for 14 h at 80° C. After filtration the filtrate is evaporated and the product recrystallized from isopropanol, yield: 57.7 g (100%) 6-(1-methyl-ethoxy)-7-(phenylmethoxy)-2H-1-benzopyran-2-one. Of this 50.0 g (161 mmol) are agitated in 100 ml of glacial acetic acid and 90 ml concentrated hydrochloric acid for 2.5 h at 70° C. This is followed by evaporation and purification using column chromatography on silica gel (eluent: chloroform and methanol 98/2 H 95/5): 24.65 g (69%), fusion point 121°-122° C. (from isopropanol).

reactant | 6-hydroxy-7-phenylmethoxy-2H-1-benzopyran-2-one | 186 mmol, 50.0 g | OC=1C(=CC2=C(C=CC(O2)=O)C1)OCC1=CC=CC=C1 | C16H12O4
reactant | isopropylbromide | 387 mmol, 36.3 ml | C(C)(C)Br | C3H7Br
reactant | potassium carbonate | 373 mmol, 51.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 5.0 g | [I-].[K+]
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 7-hydroxy-6-(1-methylethoxy)-2H-1-benzopyran-2-one | OC1=CC2=C(C=CC(O2)=O)C=C1OC(C)C | C12H12O4
